US08975264B2
Step 5: Preparation of (S)-{1-[2-ethoxymethyl-7-(4-fluorophenyl)-3-(4-methylphenyl)-pyrazolo[1,5-a]pyrimidin-5-yl]pyrrolidin-2-yl}methanol
5-Chloro-2-(ethoxymethyl)-7-(4-fluorophenyl)-3-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine (22 mg), DIPEA (0.1 mL) and (S)-2-pyrrolidinemethanol (0.1 mL) are stirred for 2 hours in an acetonitrile (7 mL) solvent at 84° C. The reaction solvent is removed by distillation under reduced pressure. The remainder is purified by column chromatography to yield the target compound (24 mg).

reactant | 5-Chloro-2-(ethoxymethyl)-7-(4-fluorophenyl)-3-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine | 22 mg | ClC1=NC=2N(C(=C1)C1=CC=C(C=C1)F)N=C(C2C2=CC=C(C=C2)C)COCC | C22H19ClFN3O
reactant | DIPEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-pyrrolidinemethanol | 0.1 mL | N1[C@@H](CCC1)CO | C5H11NO
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | (S)-{1-[2-ethoxymethyl-7-(4-fluorophenyl)-3-(4-methylphenyl)-pyrazolo[1,5-a]pyrimidin-5-yl]pyrrolidin-2-yl}methanol | 24 mg | C(C)OCC1=NN2C(N=C(C=C2C2=CC=C(C=C2)F)N2[C@@H](CCC2)CO)=C1C1=CC=C(C=C1)C | C27H29FN4O2
